US09079834B2
Step 1: preparation of ethyl N,N-bis(tert-butoxycarbonyl)-4-fluoro-6-nitro-L-norleucinate
To a solution of ethyl(2S,5E)-2-[bis(tert-butoxycarbonyl)amino]-4-fluoro-6-nitrohex-5-enoate, from Example 8, Step 4 (2.38 g, 5.66 mmol) in THF (56.6 mL) at 6° C. was added sodium borohydride (1.071 g, 283 mmol) followed by a slow addition of water (11.32 mL). The reaction mixture was stirred at room temperature for 4 hours, poured into 10% KH2PO4, and extracted with EtOAc (2×). The combined organics were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford 2.391 g of the title compound (colorless oil) that was used without further purification.

reactant | ethyl(2S,5E)-2-[bis(tert-butoxycarbonyl)amino]-4-fluoro-6-nitrohex-5-enoate | C(C)(C)(C)OC(=O)N([C@H](C(=O)OCC)CC(\C=C\[N+](=O)[O-])F)C(=O)OC(C)(C)C | C18H29FN2O8
reactant | sodium borohydride | 283 mmol, 1.071 g | [BH4-].[Na+]
reactant | water | 11.32 mL | O | H2O
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
solvent | THF | 56.6 mL | C1CCOC1 | C4H8O
product | ethyl N,N-bis(tert-butoxycarbonyl)-4-fluoro-6-nitro-L-norleucinate | 2.391 g | C(C)(C)(C)OC(=O)N([C@@H](CC(CC[N+](=O)[O-])F)C(=O)OCC)C(=O)OC(C)(C)C | C18H31FN2O8
